US05776929
3-Methoxyimino-1H-1,5-benzodiazepine-2,4(3H,5H)-dione 3
A mixture of iN sodium methylate (162 ml), o-phenylenediamine (17.5 g, 162 mmol) and diethyl 2-(methoxyimino)malonate (32.91 g, 162 mmol) is heated to reflux for 5 hr. After cooling, the mixture is acidified with 2N HCl (162 ml) and pale yellowish crystals (14.3 g, 41%) are filtered off.

reactant | o-phenylenediamine | 162 mmol, 17.5 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | diethyl 2-(methoxyimino)malonate | 162 mmol, 32.91 g | CON=C(C(=O)OCC)C(=O)OCC | C8H13NO5
reactant | HCl | 2N, 162 ml | Cl | ClH
solvent | sodium methylate | 162 ml | C[O-].[Na+]
product | 3-Methoxyimino-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | CON=C1C(NC2=C(NC1=O)C=CC=C2)=O | C10H9N3O3
